US07919496B2
SYNTHESIS OF 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE
Following the procedure as described in Example 3, making variations only as required to use 3-cyclopropylpropylamine in place of isoamylamine to react with 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid (0.50 g, yield 89%). 1H NMR (300 MHz, CDCl3) δ 7.70-7.73 (m, 1H), 7.48-7.63 (m, 2H), 7.28-7.35 (m, 1H), 7.08 (t, J=6.0 Hz, 1H), 3.97-4.08 (m, 1H), 3.79-3.90 (m, 1H), 3.60-3.70 (m, 2H), 3.47-3.53 (m, 2H), 3.37-3.46 (m 2H), 3.28-3.34 (m, 2H), 1.61-1.73 (m, 2H), 1.28 (q, J=7.5 Hz, 2H), 0.55-0.75 (m, 1H), 0.34-0.41 (m, 2H), −0.08-−0.01 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 174.5, 167.5, 158.2, 156.0, 134.0, 133.9, 132.4, 129.6, 129.0, 127.6, 127.1, 127.0, 126.9, 125.4, 121.8, 49.5, 49.0, 45.9, 40.7, 39.5, 31.9, 29.4, 10.4, 4.5. MS (ES+) m/z 468.1 (M+1).

reactant | 3-cyclopropylpropylamine | C1(CC1)CCCN | C6H13N
reactant | 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O3S
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE | C1(CC1)CCCNC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C21H24F3N5O2S
